US06897224B2
5-{3-[1-(5-Fluoro-2-methoxyphenyl)cycloprop-1-yl]-2-hydroxy-2-(trifluoromethyl)propylidenamino}quinoline-2-carboxylic acid methyl ester
Analogously to Example 37, 306 mg (1.2 mmol) of 5-{3-[1-(5-fluoro-2-methoxyphenyl)cycloprop-1-yl]-2-hydroxy-2-(trifluoromethyl)propanal is reacted with 170 mg (0.84 mmol) of 5-aminoquinoline-2-carboxylic acid methyl ester in 4.0 ml of concentrated acetic acid and 20 ml of toluene. After working-up and purification on silica gel with hexane-ethyl acetate (0-70%), 204 mg (49% of theory) of the product is obtained.

reactant | 3-[1-(5-fluoro-2-methoxyphenyl)cycloprop-1-yl]-2-hydroxy-2-(trifluoromethyl)propanal | FC=1C=CC(=C(C1)C1(CC1)CC(C=O)(C(F)(F)F)O)OC | C14H14F4O3
reactant | 5-aminoquinoline-2-carboxylic acid methyl ester | 0.84 mmol, 170 mg | COC(=O)C1=NC2=CC=CC(=C2C=C1)N | C11H10N2O2
solvent | acetic acid | 4.0 ml | C(C)(=O)O | C2H4O2
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 5-{3-[1-(5-Fluoro-2-methoxyphenyl)cycloprop-1-yl]-2-hydroxy-2-(trifluoromethyl)propylidenamino}quinoline-2-carboxylic acid methyl ester | COC(=O)C1=NC2=CC=CC(=C2C=C1)N=CC(CC1(CC1)C1=C(C=CC(=C1)F)OC)(C(F)(F)F)O | C25H22F4N2O4
